US07989463B2
Synthesis of {1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutyl}-methanol
Lithium aluminumhydride (2M solution in tetrahydrofuran, 1.5 mL) was added drop-wise to a solution of 1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid (0.61 g, 1.52 mmol) in anhydrous tetrahydrofuran (10 mL) at 0° C. to 5° C. After addition, the reaction mixture was warmed to a temperature in the range of 15° C. to 40° C. and stirring continued for an additional 10 hours. The reaction was quenched by addition of aqueous sodium hydroxide. The precipitated solid was filtered and washed with ethyl acetate. The combined filtrates were washed with brine, dried over Na2SO4, filtered, and concentrated to yield a white solid. The title compound was afforded following purification by column chromatography (silica gel) as a white solid (0.56 g, 80% yield).

reactant | Lithium | [Li] | Li
reactant | 1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid | 1.52 mmol, 0.61 g | N1(CCOCC1)C1=NC2=C(C(=N1)NC1=CC=C(C=C1)C1(CCC1)C(=O)O)CCC2 | C22H26N4O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | {1-[4-(2-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutyl}-methanol | N1(CCOCC1)C1=NC2=C(C(=N1)NC1=CC=C(C=C1)C1(CCC1)CO)CCC2 | C22H28N4O2
